US07544672B2
Step 3. N-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethyl-propionamide
A mixture of 2,2-dimethyl-N-(4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-propionamide (210 g, 0.90 mol), POCl3 (828 g, 5.40 mol, 503 mL, 6.0 eq), benzyltriethylammonium chloride (411 g, 1.80 mol), N,N-dimethylaniline (220 g, 231 mL, 1.80 mol), and acetonitrile (2.0 L) was heated to reflux for 40-60 min, monitoring with HPLC. The solvent was evaporated on a rotary evaporator, and the residue was carefully (caution: exothermic and corrosive) and slowly added to ice water (16 L). The pH was adjsuted to 7 with solid NaOH, and the resulting precipitate was collected by filtration. Drying afforded the title compound (159 g, 70% yield 70%, HPLC purity 100%). tR: 5.37 min. 1H-NMR (DMSO-d6) δ 12.35 (br. s, 1H), 10.06 (br. s, 1H), 7.54 (q, 1H), 6.52 (q, 1H), 1.25 (s, 9H).

reactant | 2,2-dimethyl-N-(4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-propionamide | 0.90 mol, 210 g | CC(C(=O)NC=1NC(C2=C(N1)NC=C2)=O)(C)C | C11H14N4O2
reactant | POCl3 | 5.40 mol, 503 mL, 828 g, 6.0 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 1.80 mol, 231 mL, 220 g | CN(C1=CC=CC=C1)C | C8H11N
catalyst | benzyltriethylammonium chloride | 1.80 mol, 411 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 2.0 L | C(C)#N | C2H3N
product | N-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethyl-propionamide | 159 g, 70% yield | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)NC=C2 | C11H13ClN4O
